US08791123B2
(R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)-N-(2-hydroxy-2-methylpropyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation G) and 1-amino-2-methylpropan-2-ol to yield the title compound as a white solid (17 mg, 55% yield). MS (apci) m/z=428.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OC | C18H17FN4O3
reactant | 1-amino-2-methylpropan-2-ol | NCC(C)(O)C | C4H11NO
product | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)-N-(2-hydroxy-2-methylpropyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 17 mg, 55% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NCC(C)(C)O)OC | C22H26FN5O3
